US03932429
0.262 g of lithium is added to 10 ml of absolute ether in a nitrogen atmosphere, and a solution of 2.8 g of methyl iodide in 5 ml of absolute ether is added dropwise thereto at 0° to 5°C. The mixture is stirred at the same temperature for 50 minutes. Then, a solution of 1.5 g of 1-(3-methoxyphenyl)-6-benzyl-6-azabicyclo[3,2,1]octane- 7-one in 30 ml of absolute benzene is added dropwise to the mixture at 5° to 10°C in a nitrogen atmosphere. The mixture is stirred at room temperature overnight. After water is added to the mixture, the benzene-ether layer is washed with water, dried and then evaporated to remove solvent. The residue thus obtained is dissolved in 60 ml of ethanol, and 0.355 g of sodium borohydride is added to the ethanol solution at 8° to 10°C. The ethanol solution is stirred at room temperature for 2 hours. Then, the ethanol solution is concentrated under reduced pressure to remove solvent. water is added to the residue, and the aqueous mixture is extracted with ether. The ether extract is extracted with 10% aqueous hydrochloric acid. The aqueous extract is washed with ether, made alkaline with ammonia and again extracted with ether. The ether extract thus obtained is dried and evaporated to remove solvent. The residue is dissolved in 5 ml of chloroform. The chloroform solution is poured onto a column of 100 g of silica gel. Then, the column is eluted with a mixture of 2850 ml of chloroform and 150 ml of methanol. The effluent obtained is evaporated to remove solvent, whereby 0.59 g of 1-(3-methoxyphenyl)-6-benzyl-7-methyl-6-azabicyclo[3,2,1]octane is obtained. Picrate: M.p. 184°-186°C(recrystallized from methanol).

reactant | lithium | 0.262 g | [Li] | Li
reactant | methyl iodide | 2.8 g | CI | CH3I
reactant | 1-(3-methoxyphenyl)-6-benzyl-6-azabicyclo[3,2,1]octane- 7-one | 1.5 g | COC=1C=C(C=CC1)C12CCCC(N(C1=O)CC1=CC=CC=C1)C2 | C21H23NO2
reactant | sodium borohydride | 0.355 g | [BH4-].[Na+]
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-(3-methoxyphenyl)-6-benzyl-7-methyl-6-azabicyclo[3,2,1]octane | 0.59 g | COC=1C=C(C=CC1)C12CCCC(N(C1C)CC1=CC=CC=C1)C2 | C22H27NO
